datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=CC=C2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1.CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([CH:10](C2=CC=CC=C2)[C:11]2=[N+:12](C3=C(C(C)(C)C)C=CC=C3C(C)(C)C)[CH:65]=[CH:64][N:63]2C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C-:21]2[S:32](=[O:33])(=[O:34])C3=C(C=CC=C3)[S:42]2(=[O:43])=[O:44])[CH:55]=[CH:56]1 10,11=10,20;12=11,12;20,21=21"
C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH+:20][CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1.[N-:10]1[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]1>>C1CN2CCC[C:35]3=[C:34]2[C:33](=[CH:32][C:31]([CH:20]([N:10]2[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]2)[CH:51]=[CH:52][C:41]2=[CH:42][C:43]4=[C:44]5N(CCC4)CCC[C:45]5=[CH:46]2)=[CH:36]3)C1 10=20
"C1CC[N:14]([C:13]2=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]2)C1.CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N3CCOCC3)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[CH:11]=[CH:12][C:13](=[N+:14]3CCCC3)[CH:62]=[CH:61]2)[C:21](C[N+]2=CC=C(N3CCOCC3)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1C[N:10]2CCC1CC2.COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1>>COC1=CC=C([C:22]2=[CH:21][CH:20]([N+:10]34CCC(CC3)CC4)[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1 10=20;20,21=21,22;22,23=23"
"C[C:63]1=[C:62]([CH:11]=[CH2:10])[C:73](C)=[CH:74][C:65](C)=[CH:64]1.C[CH:20]1C[Fe-2:21]12345(C#[O+])(C#[O+])C1C2C3C4C15>>C[CH:20](C[Fe-3:21]1234(C#[O+])(C#[O+])C5C1C2C3C54)[CH2:10][CH+:11][C:62]1=[C:63](C)[CH:64]=[C:65](C)[CH:74]=[C:73]1C 10,11=10,20;20,21=21"
C[Si:71](C)(C)[CH-:10][N+:61]#[N:62].Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>C[Si:71](C)(C)[CH:10]([C:20]1([C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1)[N+:61]#[N:62] 10=20
"COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC.C[C:11](=[CH2:10])[CH:62]=[CH2:63]>>COC1=CC(CC2C(=O)N(C)C(C)(C)[N:23]2[CH:22]=[CH:21][CH:20]([CH2:10][C+:11](C)[CH:62]=[CH2:63])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]CC[O:62]2)S1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC1=CC=[C:10]([C:20]([C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)S1.FC(F)(F)C1=CC(C(F)(F)F)=CC([B-:11]2=[O+:12]CC[O:62]2)=C1 10,11=10,20;12=11,12"
"C/[N:10]=[C:11](/C(F)(F)F)[O-:12].C1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1>>C[N:10]([C:11](C(F)(F)F)=[O:12])[CH:20]1[CH:21]=[C:22](C2=CC=CC=C2)[O:23][C:32]2=[C:31]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=C[C:62]2=[C:63](C=C1)[C:71](=[O:72])[N-:10][C:61]2=[O:62].CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([N:10]2[C:61](=[O:62])[C:62]3=[C:63](C=CC=C3)[C:71]2=[O:72])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C12CCCC2 10=20;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]2(C3=CC=CC=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)=[O+:12]1.CC1=CC=[C:10]([C:20]([C:31]2=[CH:32][CH:33]=[C:34](N(C)C)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)S1 10,11=10,20;12=11,12"
CC[O:62][C:81]([CH-:10][N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:62][C:81]([CH:10]([C:20]([C:31]1=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)=[O:82] 10=20
"C[C:11](=[CH2:10])[C:62](C)=[CH2:63].C[C:21]1=[CH:20]CCC[C:22]1=[O:23]>>C[C+:11]([CH2:10][CH:20]1CCC[C:22]([O-:23])=[C:21]1C)[C:62](C)=[CH2:63] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(C[N:12]2CC[N:10]=[C:11]2C2=CC=CC=C2)C=C1.C1CC[N+:21](=[CH:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1>>C1=CC=C(C[N+:12]2=[C:11](C3=CC=CC=C3)[N:10]([CH:20]([N:21]3CCCC3)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)CC2)C=C1 10,11=10,20;12=11,12;20,21=21"
